### ISSUE TITLE
スターリンソート

### ISSUE THREAD

**Issue by Seasawher** [lean-ja/lean-by-example#1770]
```
import Mathlib

variable {α : Type} [LE α] [DecidableLE α]

open List

def stalinSortInner (x : α) : List α → List α
  | [] => [x]
  | y :: ys => if x ≤ y then x :: stalinSortInner y ys else stalinSortInner x ys

theorem sorted_stalinSortInner (x : α) (xs : List α) : Sorted (· ≤ ·) (stalinSortInner x xs) := by
  induction xs generalizing x with
  | nil => simp [stalinSortInner]
  | cons y ys ih =>
    simp only [stalinSortInner]
    by_cases h : x ≤ y
    · simp [h, ih]
      sorry
    · simp [h, ih]

def stalinSort : List α → List α
  | [] => []
  | x :: xs => stalinSortInner x xs

theorem sorted_stalinSort (xs : List α) : Sorted (· ≤ ·) (stalinSort xs) := by
  cases xs
  · apply sorted_nil
  · apply sorted_stalinSortInner
```
the `sorry` is left as an exercise for the reader 🙂

**Comment by Seasawher** [comment]
Lean の Discord サーバにて

**Comment by Seasawher** [comment]
![image](https://github.com/user-attachments/assets/7b5342c5-5cba-40aa-97c1-b0b5a133005d)
